US07273877B2
Ethyl 6-chloro-4-[(1-chloro-2-naphthyl)amino]nicotinate was dissolved in CHCl3 and reacted with Me2SO4, followed by triethylamine, AcOH and EtOH as described for example 33, step B. Purification by flash chromatography on silica gel (50% EtOAc/Hexane) afforded ethyl 4-[(1-chloro-2-naphthyl)amino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (71%). 1H NMR [400 MHz, (CD3)2SO] δ 9.73 (s, 1H), 8.59 (s, 1H), 8.18 (d, J=8.4 Hz, 1H), 8.02 (t, J=8.4 Hz, 2H), 7.75-7.69 (m, 2H), 7.64-7.59 (m, 1H), 5.59 (s, 1H), 4.34 (q, J=7.1 Hz, 2H), 3.45 (s, 3H), 1.35 (t, J=7.1 Hz, 3H).

reactant | Ethyl 6-chloro-4-[(1-chloro-2-naphthyl)amino]nicotinate | ClC1=NC=C(C(=O)OCC)C(=C1)NC1=C(C2=CC=CC=C2C=C1)Cl | C18H14Cl2N2O2
reactant | Me2SO4 | COS(=O)(=O)OC | C2H6O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | AcOH | CC(=O)O | C2H4O2
reactant | EtOH | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[(1-chloro-2-naphthyl)amino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 71% | ClC1=C(C=CC2=CC=CC=C12)NC=1C(=CN(C(C1)=O)C)C(=O)OCC | C19H17ClN2O3
